datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12]([O:13])([H:21])[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:13][C:12]([C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:18])([H:19])[H:20])[H:17])([H:21])[H:22],7.57304
[C:0]([C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])=[C:3]([H:11])[C:4]1([C:5]([H:13])[H:14])[H:12],125.52
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[H:12]>>[C:0](=[C:1]1[C:2]([H:8])[C:3]([H:9])([H:12])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],8.531176
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([H:14])[H:15])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]=[C:11]([H:14])[H:15])([H:12])[H:13])[H:4],39.5388
[C:0](=[C:1]([O:2][O:3][H:9])[C:4]([C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[O:2][C:4]1([C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])[H:8].[O:3][H:9],45.6433
[C:0](=[C:1]1[C:2]([H:6])=[C:3]1[H:7])([H:4])[H:5].[H:8]>>[C:0]([C:1]1[C:2]([H:6])=[C:3]1[H:7])([H:4])([H:5])[H:8],2.7196
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28],61.965
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7][C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:7](=[C:6]([H:9])[H:10])[C:8]([H:11])([H:12])[H:13])[H:4],17.9494
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],78.0734
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:15])[H:16])[C:8]([H:17])([H:18])[H:19])([H:13])[H:14])[H:12])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[C:6]([C:8]([H:17])([H:18])[H:19])[C:7]1([H:15])[H:16])[H:9],112.968
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22](=[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[H:29])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:24]([C:23](=[C:22]([H:26])[H:27])[H:28])([C:25]([H:30])([H:31])[H:32])[H:29])[H:12])([H:10])[H:11],41.0032
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:5],77.655
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])[H:11])([H:9])[H:10],72.7179
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:6],16.8615
[C:0]([H:1])([H:2])[H:3].[c:4]1([H:16])[c:5]([H:17])[c:6]([H:18])[c:7](-[c:8]2[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]2[H:23])[c:14]([H:24])[c:15]1[H:25]>>[C:0]([H:1])([H:2])([H:3])[H:17].[c:4]1([H:16])[c:5][c:6]([H:18])[c:7](-[c:8]2[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]2[H:23])[c:14]([H:24])[c:15]1[H:25],62.608
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10](=[C:9]([H:13])[H:14])[C:11](=[C:12]([H:16])[H:17])[H:15],32.2168
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:7],5.06264
